Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___
 
Chief Complaint:
Dyspnea and myalgias
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with H/O CAD s/p DES to RCA (___), HFpEF (LVEF 55-60%), 
hypertension, type 2 diabetes mellitus, COPD (not on home O2), 
and obesity brought in by ambulance for myalgias, difficulty 
ambulating and dyspnea.

Patient states that she has had four days of progressively 
worsening dyspnea at rest, exacerbated with exertion. Patient 
has also had a non-productive cough for the past 2 days, but 
denies fevers. She endorsed rhinorrhea (at night), sore throat 
and chills. 2 days ago, she had episode of short-lived 
palpitations and some left sided muscle strain/deep ache in 
setting of washing dishes. She reported orthopnea and paroxysmal 
nocturnal dyspnea. Patient stated that she typically sleeps in 
recliner, however the evening before admission decided to sleep 
in her bed and had worsening shortness of breath. Patient does 
endorse progressively worsening bilateral lower extremity edema 
in the last month. She reports her dry weight as 312 pounds, 
however has not been weighing herself recently.

She called ___ earlier on the day of admission for diffuse 
arthralgias and myalgias which prevented her from arising from 
bed. She has had arthralgias for several months and despite 
taking gabapentin has had no improvement in her symptoms. She 
stated that she'll intermittently drop items like pans while 
taking them out of the oven. 

She denied GI symptoms. Patient also reported urinary urgency 
with mild incontinence upon standing for about one year. Patient 
is able to sense when she has to urinate, however upon standing 
will intermittently lose control of her bladder. She reported 
darker urine from baseline ("brown" in the last few days) and 
intentional decreased PO intake. She reported no changes to her 
medication regimen recently. 
 
In the ED, initial VS: T 97.8 HR 98 BP 198/89 RR 16 SpO2 98% on 
RA. On exam, she was a well-appearing middle-aged woman speaking 
in complete sentences. No cervical lymphadenopathy. Chest: 
Decreased aeration at the bases, otherwise clear to 
auscultation. Benign cardiac and abdominal exam. Bilateral lower 
extremity edema. EKG showed sinus rhythm vent rate 81, normal 
axis, no acute ischemic changes. Labs notable for  Normal CBC, 
coags, CMP, LFTs, first Trop-T <0.01, ProBNP 1857, UA with few 
bacteria and <1 WBC. CXR showed "Moderate enlargement of the 
cardiac silhouette. No pleural effusion. Possible minimal 
pulmonary vascular congestion, but no overt pulmonary edema." 
Patient was given gabapentin 300 mg and furosemide 40 mg IV.
 
REVIEW OF SYSTEMS: As above
 
Past Medical History:
1. CAD RISK FACTORS 
 - Diabetes mellitus
 - Hypertension 
 - Dyslipidemia 
2. CARDIAC HISTORY 
 - Coronaries: s/p DES to RCA (___) 
 - Pump: LVEF 55-60% 
 - Rhythm: NSR 
3. OTHER PAST MEDICAL HISTORY 
 - Diabetic neuropathy
 - Sleep apnea (previously on CPAP)
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
GENERAL: Obese white woman in NAD. Oriented x3. Mood, affect 
appropriate.
24 HR Data (last updated ___ @ 2319) Temp: 97.9 (Tm 97.9), 
BP: 191/80 (191-196/80-88), HR: 80 (80-89), RR: 18, O2 sat: 97% 
(97-98), O2 delivery: RA, Wt: 315.04 lb/142.9 kg
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Unable to appreciate JVP.
CARDIAC: Difficult to hear. Regular rate and rhythm. Normal S1, 
S2. No murmurs, rubs, or gallops. no thrills or lifts.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. Difficult to hear, but 
sound clear besides some mild inspiratory crackles at bases. No 
wheezes.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing or cyanosis. Trace 
pitting edema bilateral legs. Calf pain improves with massage.
SKIN: Scratching of ankles.
 
Pertinent Results:
___ 11:30AM BLOOD WBC-10.8* RBC-4.71 Hgb-13.2 Hct-42.0 
MCV-89 MCH-28.0 MCHC-31.4* RDW-13.9 RDWSD-45.5 Plt ___
___ 11:30AM BLOOD Neuts-70.7 Lymphs-18.3* Monos-6.7 Eos-3.2 
Baso-0.5 Im ___ AbsNeut-7.61* AbsLymp-1.97 AbsMono-0.72 
AbsEos-0.34 AbsBaso-0.05

___ 11:30AM BLOOD Glucose-122* UreaN-16 Creat-1.0 Na-139 
K-4.2 Cl-103 HCO3-24 AnGap-12
___ 11:30AM BLOOD ALT-12 AST-14 CK(CPK)-46 AlkPhos-150* 
TotBili-0.6
___ 11:30AM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.2 Mg-2.0

___ 11:30AM BLOOD cTropnT-<0.01 proBNP-1857*
___ 07:00PM BLOOD cTropnT-<0.01

___ 06:00PM URINE Color-Straw Appear-CLEAR Sp ___
___ 06:00PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.0 
Leuks-NEG
___ 06:00PM URINE RBC-0 WBC-<1 Bacteri-FEW* Yeast-NONE 
Epi-1
___ 06:00PM URINE Myoglobin-PRESUMPTIVELY NEGATIVE
___ 6:00 pm URINE CULTURE (Final ___: 
MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH SKIN 
AND/OR GENITAL CONTAMINATION.

___ 07:00PM BLOOD TSH-1.2
___ 03:41AM BLOOD calTIBC-280 Ferritn-54 TRF-215
___ 05:59AM BLOOD VitB12-203*
___ 07:00PM BLOOD 25VitD-11*
___ 02:33AM BLOOD PTH-101*
___ 03:41AM BLOOD Calcium-9.1 Phos-4.9* Mg-1.9 Iron-42 
Cholest-205*
___ 03:41AM BLOOD Triglyc-192* HDL-43 CHOL/HD-4.8 
LDLcalc-124

ECG ___  10:53:39
Sinus rhythm with premature ventricular or aberrantly conducted 
complexes. Probable left atrial enlargement. Incomplete right 
bundle branch block. Left ventricular hypertrophy. Poor R wave 
progression, cannot exclude anterolateral infarct. When compared 
with ECG of ___ 18:08, changes in initial forces across 
precordium are new

CXR ___
The lung bases are relatively underpenetrated due to overlying 
soft tissue, but no definite focal consolidation is seen on the 
lateral view. No pleural effusion or pneumothorax is seen. 
Possible minimal pulmonary vascular congestion, but no overt 
pulmonary edema. Cardiac silhouette is moderately enlarged. 
Mediastinal contours are unremarkable.
IMPRESSION: Moderate enlargement of the cardiac silhouette. No 
pleural effusion. Possible minimal pulmonary vascular 
congestion, but no overt pulmonary edema. 

DISCHARGE LABS:
___ 10:00AM BLOOD WBC-7.6 RBC-4.27 Hgb-11.9 Hct-38.9 MCV-91 
MCH-27.9 MCHC-30.6* RDW-14.1 RDWSD-47.6* Plt ___
___ 10:00AM BLOOD Glucose-140* UreaN-30* Creat-1.2* Na-140 
K-4.8 Cl-100 HCO3-28 AnGap-12
___ 10:00AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.___ with H/O CAD s/p DES to RCA (___), HFpEF (LVEF 55-60%), 
hypertension, type 2 diabete mellitus, COPD, and obesity 
presented with myalgias, difficulty ambulating and dyspnea. Her 
dyspnea was thought to be consistent with HFpEF exacerbation, as 
her pro-BNP was elevated at 1857 with radiographic possible 
minimal pulmonary vascular congestion. She was 315lbs on 
admission (dry weight thought to be 312 lbs). She was diuresed 
with furosemide 40 and 80 mg IV boluses. Unfortunately, she 
developed ___ (Cr rising from 1.1 to 1.4) and 
lightheadedness, requiring treatment with 1 L NS on ___ and 
meclizine 12.5 mg. Her diuretics were resumed at a reduced dose 
and her kidney function remained stable with Cr 1.1. She was 
continued on her home isosorbide mononitrate, losartan, and 
carvedilol. Orthostatic VS negative prior to discharge. She was 
discharged on torsemide 20 mg every other day with close 
cardiology and primary care physician follow up.

OTHER ACTIVE ISSUES:  
# Neuropathy, Difficulty Ambulating: Patient reported pain and 
weakness in distal arms and legs that has been present for one 
year, most suggestive of diabetic neuropathy. TSH was normal. 
Her B12 level was low at 203 despite being prescribed 
cyanocobalamin 1000 mcg daily, suggesting that she may be 
missing doses. She was evaluated by OT prior to discharge home. 
Difficulty ambulating is also likely due to weight and 
deconditioning.

# Myalgias: Patient reported 'whole body aches.' Influenza A/B 
swabs were negative. Statin myopathy was less likely, as CK was 
normal at 46. Mylagias were thought most likely due viral 
syndrome, as patient reported URI symptoms on admission. 

# Vitamin D Deficiency, Vitamin B12 Deficiency: Patient was 
found to be vitamin D and B12 deficient, with 25-OH Vit D of 11 
and Vit B12 of 203, likely due to medication non-compliance as 
patient had been prescribed vit D and vit B12 supplementation. 
We continued home prescription of cyanocobalamin 1000 mcg daily, 
vit D ___ U daily, and  multivitamin. 

CHRONIC ISSUES:  
# Urinary Incontinence/ urgency: Patient reported ___ year of 
urinary incontinence and urgency. No UTI on U/A and culture.

# CAD s/p DES to RCA (___), hyperlipidemia: Continued home 
aspirin 81 mg daily and atorvastatin 80 mg QPM. Lipid profile 
showed HDL 43 and calculated LDL 124, raising the concern for 
non-compliance vs. need to escalate therapy with ezetimibe or 
PCS9-inhibitor given known CAD. We discontinued her clopidogrel 
after touching base with patient's interventional cardiologist, 
as she had been on it for over 30 months since placement of her 
DES. She was continued on carvedilol, isosorbide mononitrate, 
amlodipine and losartan.

# Type 2 diabetes mellitus: Patient placed on insulin sliding 
scale in place of home glyburide 1.25 mg and metformin 1000 mg 
BID while hospitalized.

# OSA: Patient declined CPAP  

# Hypertension: Continued home amlodipine 10 mg daily, 
carvedilol 25 mg BID, and losartan 100 mg daily.
 
# COPD: Continued home albuterol q6h:prn

# Depression/Anxiety: Continued home duloxetine ___ 60mg daily, 
lorazepam 0.5mg PRN

TRANSITIONAL ISSUES:
# HFpEF:
DISCHARGE WEIGHT: 143.5 kg, 316.36 pounds
DISCHARGE Cr: 1.2 (baseline 1.0)
DISCHARGE DIURETIC: 20 mg torsemide every other day

TO DO:
[] Patient discharged on torsemide 20 mg every other day. Please 
check BMP on ___ to evaluate renal function on torsemide 
dose and evaluate symptoms on this regimen.  

# Neuropathy, Myalgias 
[] Consider increasing gabapentin up to 300-1200mg TID 
[] Consider referral to neurology for further workup of 
neuropathy 
[] Consider massage therapy for leg pain

# Vitamin D Deficiency
[] Patient's 25-OH Vit D level was low 11 despite being 
prescribed Vit D 2,000 units daily. Consider repleting with 
50,000 units once weekly for ___ weeks. 

# Urinary Incontinence/Urgency
[] Patient reported ___ year of urinary incontinence and urgency. 
Consider referral to uro-gynecology. 

# Hyperlipidemia
[] LDL was 124 despite being prescribed atorvastatin 80 mg QPM. 
Consider medication non-adherence vs need for ezetimibe as 
second agent. 

# CAD
[] Patient's home clopidogrel was discontinued after discussion 
with Dr. ___, as she had been on it for 4+ years s/p 
uncomplicated placement of one DES. 

# CODE: Full (confirmed) 
# CONTACT: Sister , ___  ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. CARVedilol 25 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
8. Torsemide 40 mg PO DAILY 
9. Triamcinolone Acetonide 0.025% Cream 1 Appl TP DAILY:PRN 
affected areas 
10. Vitamin D ___ UNIT PO DAILY 
11. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
12. Losartan Potassium 100 mg PO DAILY 
13. GlyBURIDE 1.25 mg PO DAILY 
14. MetFORMIN (Glucophage) 1000 mg PO BID 
15. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN cough 
16. Cyanocobalamin 1000 mcg IM/SC QMONTH 
17. DULoxetine ___ 60 mg PO DAILY 
18. Gabapentin 300 mg PO QHS 
19. LORazepam 0.5 mg PO DAILY:PRN anxiety 
20. Cyanocobalamin 1000 mcg PO DAILY
 
Discharge Medications:
1.  Aspirin 162 mg PO DAILY  
2.  Torsemide 20 mg PO EVERY OTHER DAY  
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN cough  
4.  amLODIPine 10 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  CARVedilol 25 mg PO BID  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Cyanocobalamin 1000 mcg IM/SC QMONTH  
9.  DULoxetine ___ 60 mg PO DAILY  
10.  Gabapentin 300 mg PO QHS  
11.  GlyBURIDE 1.25 mg PO DAILY  
12.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
13.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
14.  Losartan Potassium 100 mg PO DAILY  
15.  MetFORMIN (Glucophage) 1000 mg PO BID  
16.  Multivitamins 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
18.  Triamcinolone Acetonide 0.025% Cream 1 Appl TP DAILY:PRN 
affected areas  
19.  Vitamin D ___ UNIT PO DAILY
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Acute on chronic diastolic heart failure exacerbation
-Coronary artery disease with prior stenting
-Hyperlipidemia
-Hypertension
-Type 2 Diabetes Mellitus with
-Neuropathy
-Stage 3 chronic kidney disease
-Acute kidney injury
-Lightheadedness
-Myalgias
-Likely viral syndrome
-Vitamin D Deficiency
-Vitamin B12 Deficiency
-Urinary incontinence, chronic 
-Obesity, morbid (body mass index ___ kilogram per meter 
squared)
-Obstructive sleep apnea
-Chronic obstructive pulmonary disease
-Depression
-Anxiety
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because of shortness of breath  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You were admitted to the hospital because you had difficulty 
walking and you had been feeling short of breath and you were 
found to have fluid on your lungs. This was felt to be due to a 
condition called heart failure, where your heart does not pump 
hard enough and fluid backs up into your lungs. You were given a 
diuretic medication through the IV to help get the fluid out. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- Your weight at discharge is 316 pounds. Please weigh yourself 
today at home and use this as your new baseline  
- Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up by more than 3 lbs.  

Thank you for allowing us to be involved in your care, we wish 
you all the ___!  
Your ___ Healthcare Team
 
Followup Instructions:
___